US07915267B2
4-oxo-N-[(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methyl]-3,4-dihydroquinazoline-2-carboxamide
A suspension of ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate obtained according to the methods described in Journal of Organic Chemistry (1978), 43(23), 4485-7 and the like (200 mg, 0.917 mmol), 1-(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methanamine hydrochloride obtained in Reference Example is (343 mg, 1.19 mmol) and diisopropylethylamine (462 mg, 3.57 mmol) in DMA (5 mL) was stirred at 90° C. for 15 hr. After cooling the mixture to room temperature, the resulting solid was collected by filtration, and washed with ethanol. The obtained crude powder was recrystallized from ethanol to give the title compound as a white powder (135 mg, 35%).

reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | 1-(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methanamine hydrochloride | Cl.N1N=C(N=C1)SCCOC1=NC=CC(=C1)CN
reactant | diisopropylethylamine | 3.57 mmol, 462 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-oxo-N-[(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methyl]-3,4-dihydroquinazoline-2-carboxamide | 135 mg, 35% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC1=CC(=NC=C1)OCCSC1=NNC=N1 | C19H17N7O3S
